US05705504
To a cooled (0° C.) suspension of 4-nitroaniline (10 g, 0.072 mol) and Et3N (10 mL) in CHCl3 (120 mL), was added dropwise ethyl chloroformate (6.9 mL) and the mixture was stirred under an argon atmosphere at room temperature overnight. CHCl3 was added and the resulting solution was washed with 1N HCl. The layers were separated, the aqueous phase was washed with CHCl3 and the combined organic extracts were dried and concentrated. The residue was chromatographed on silica gel (hexane:EtOAc, 30%) to afford N-(ethoxycarbonyl)-4-nitroaniline (1.7 g).

reactant | 4-nitroaniline | 0.072 mol, 10 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | Et3N | 10 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.9 mL | ClC(=O)OCC | C3H5ClO2
solvent | CHCl3 | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(ethoxycarbonyl)-4-nitroaniline | 1.7 g | C(C)OC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
